US05948911
Following the procedure of Example 1, the reaction of 3-nitrobenzylamine with 2,4,5-trichloro-6-methyl-thieno-[2,3-d]-pyrimidine yields 2,5-dichloro-6-methyl-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | 3-nitrobenzylamine | [N+](=O)([O-])C=1C=C(CN)C=CC1 | C7H8N2O2
reactant | 2,4,5-trichloro-6-methyl-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2Cl)C)Cl | C7H3Cl3N2S
product | 2,5-dichloro-6-methyl-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2Cl)C)NCC2=CC(=CC=C2)[N+](=O)[O-] | C14H10Cl2N4O2S
